US07547691B2
2-{5-Chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride
Aqueous formaldehyde (37.4% or 13.5 M, 0.134 mL, 1.80 mmol) is added to a stirred solution of 2-[5-chloro-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid amide (150 mg, 0.361 mmol) in CH3OH (15 mL) and dichloromethane (15 mL) at room temperature to form a light suspension. The mixture is allowed to stir for 90 minutes. The mixture is cooled to 0° C. before it is treated with powdered sodium borohydride (68.1 mg, 1.80 mmol). The mixture is stirred at 0° C. for 1 hour, then allowed to slowly warm up to room temperature to form a clear solution. After concentration, the crude product is subject to chromatographic purification on silica gel, eluting with 2 M NH3/CH3OH in dichloromethane 4-12%, to give the desired methylated product as a yellowish solid. The free base is dissolved in CH3OH (20 mL) and dichloromethane (20 mL) then treated with 12 N HCl (0.30 mL) to form a yellow solution. After concentration and vacuum drying at 60° C., the title compound is obtained as a yellow solid (174 mg, 95% yield). ES+(m/z) 430 (35Cl) and 432 (37Cl) [M(free base)+H].

reactant | formaldehyde | 1.80 mmol, 13.5 M, 0.134 mL | C=O | CH2O
reactant | 2-[5-chloro-2-(2-piperidin-4-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid amide | 0.361 mmol, 150 mg | ClC=1C(=NC(=NC1)NCCC1CCNCC1)C1=CC2=C(S1)C=CC=C2C(=O)N | C20H22ClN5OS
reactant | sodium borohydride | 1.80 mmol, 68.1 mg | [BH4-].[Na+]
reactant | HCl | 12 N, 0.30 mL | Cl | ClH
solvent | CH3OH | 15 mL | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | CH3OH | 20 mL | CO | CH4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-{5-Chloro-2-[2-(1-methylpiperidin-4-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid amide di-hydrochloride | Cl.Cl.ClC=1C(=NC(=NC1)NCCC1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)N | InChI=1S/C21H24ClN5OS.2ClH/c1-27-9-6-13(7-10-27)5-8-24-21-25-12-16(22)19(26-21)18-11-15-14(20(23)28)3-2-4-17(15)29-18;;/h2-4,11-13H,5-10H2,1H3,(H2,23,28)(H,24,25,26);2*1H
